US08487108B2
To a solution of (R)-tert-butyl 3-((R)-(3-chloro-2-fluorophenyl)(2-ethoxy-2-oxoethoxy)-methyl)piperidine-1-carboxylate (500 mg, 1.16 mmol) in MeOH (10 mL) was added NH3 (aq) (28%, 15 mL) at rt. The resulting clear solution was stirred at rt overnight. Solvent and excess ammonia was removed in vacuo to afford (R)-tert-butyl 3-((2-amino-2-oxoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (350 mg, 0.87 mmol, 75%). 1H NMR (400 MHz, CD3OD): 1.45 (s, 9H), 1.56 (m, 1H), 1.90 (m, 1H), 2.95 (m, 2H), 3.55-3.85 (m, 3H), 4.15 (m, 1H), 4.56 (m, 1H), 7.22 (m, 1H), 7.42 (m, 2H); MS (E/Z): 401 (M+H+). The diastereomers can be separated by preparative HPLC if desired.

reactant | (R)-tert-butyl 3-((R)-(3-chloro-2-fluorophenyl)(2-ethoxy-2-oxoethoxy)-methyl)piperidine-1-carboxylate | 1.16 mmol, 500 mg | ClC=1C(=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC)F | C21H29ClFNO5
reactant | NH3 | 15 mL | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
product | (R)-tert-butyl 3-((2-amino-2-oxoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate | 0.87 mmol, 350 mg, 75% | NC(COC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F)=O | C19H26ClFN2O4
